US08809382B2
Step 1: 5-Chloro-2-hept-1-enyl-1H-indole
To the cold suspension of hexyl-triphenyl-phosphonium bromide in THF was added LiHMDS in THF and the mixture was stirred for 30 minutes and then the solution of 5-chloro-1H-indole-2-carbaldehyde was added to the reaction mixture and stirred for 3 hours. The reaction was quenched with saturated ammonium chloride solution and extracted with ethyl acetate. The product, 5-chloro-2-hept-1-enyl-1H-indole was purified by column chromatography.

reactant | hexyl-triphenyl-phosphonium bromide | [Br-].C(CCCCC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | LiHMDS | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 5-chloro-1H-indole-2-carbaldehyde | ClC=1C=C2C=C(NC2=CC1)C=O | C9H6ClNO
solvent | THF | C1CCOC1 | C4H8O
product | 5-Chloro-2-hept-1-enyl-1H-indole | ClC=1C=C2C=C(NC2=CC1)C=CCCCCC | C15H18ClN
